US07799792B2
To a solution of 2-(4-chlorobenzyl)-5-(5-chloromethyl-[1,2,4]oxadiazol-3-yl)-7-methyl-2,3-dihydroisoindol-1-one (37 mg, 0.0952 mmol) in MeCN (4 mL) was added K2CO3 (39 mg, 0.286 mmol) and (3R)-3-methylpiperazine-1-carboxylic acid tert-butyl ester (38 mg, 0.190 mmol). The mixture was heated at 70° C. overnight, then diluted with water and extracted with EtOAc. The organic phase was washed with brine, dried (Na2SO4), filtered, and concentrated to a yellow oil. This residue was dissolved in 1:1 TFA/CH2Cl2 for 30 minutes, then the reaction mixture was concentrated and basified with NaHCO3 to pH 9-10. The product was extracted with CH2Cl2. The organic phase was washed with brine, dried (Na2SO4), filtered, and concentrated. The residue was purified by column chromatography on silica (1% 2M NH3 in MeOH/CH2Cl2) to provide 2-(4-chlorobenzyl)-7-methyl-5-[5-(2-methylpiperazin-1-ylmethyl)-[1,2,4]oxadiazol-3-yl]-2,3-dihydroisoindol-1-one as a yellow oil (17 mg). 1H NMR (300 MHz, CDCl3) δ 7.97 (s, 1H), 7.93 (s, 1H), 7.33 (d, 2H), 7.26 (d, 2H), 4.77 (s, 2H), 4.29 (s, 2H), 4.17 (d, 1H), 4.06 (d, 1H), 2.83-3.04 (m, 4H), 2.83 (s, 3H), 2.50-2.61 (m, 3H), 1.19 (d, 3H).

reactant | 2-(4-chlorobenzyl)-5-(5-chloromethyl-[1,2,4]oxadiazol-3-yl)-7-methyl-2,3-dihydroisoindol-1-one | 0.0952 mmol, 37 mg | ClC1=CC=C(CN2C(C3=C(C=C(C=C3C2)C2=NOC(=N2)CCl)C)=O)C=C1 | C19H15Cl2N3O2
reactant | K2CO3 | 0.286 mmol, 39 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | (3R)-3-methylpiperazine-1-carboxylic acid tert-butyl ester | 0.190 mmol, 38 mg | C(C)(C)(C)OC(=O)N1C[C@H](NCC1)C | C10H20N2O2
solvent | MeCN | 4 mL | CC#N | C2H3N
solvent | water | O | H2O
product | 2-(4-chlorobenzyl)-7-methyl-5-[5-(2-methylpiperazin-1-ylmethyl)-[1,2,4]oxadiazol-3-yl]-2,3-dihydroisoindol-1-one | 17 mg | ClC1=CC=C(CN2C(C3=C(C=C(C=C3C2)C2=NOC(=N2)CN2C(CNCC2)C)C)=O)C=C1 | C24H26ClN5O2
